US07858640B2
2-(2,4-difluorobenzyl)-3-oxothiobutyric acid S-tert-butyl Ester
The title compound was prepared by the method of Preparation 34a using 1-bromomethyl-2,4-difluorobenzene and 3-oxothiobutyric acid S-tert-butyl ester

reactant | 1-bromomethyl-2,4-difluorobenzene | BrCC1=C(C=C(C=C1)F)F | C7H5BrF2
reactant | 3-oxothiobutyric acid S-tert-butyl ester | C(C)(C)(C)SC(CC(C)=O)=O | C8H14O2S
product | 2-(2,4-difluorobenzyl)-3-oxothiobutyric acid S-tert-butyl Ester | C(C)(C)(C)SC(C(C(C)=O)CC1=C(C=C(C=C1)F)F)=O | C15H18F2O2S
